US07202364B2
5-Amino-6-nitroindane (4 g) is dissolved in 10 mL of MeOH, 30 mL of H2O and 20 mL of H2SO4, and cooled to 0° C. A solution of 1.72 g of NaNO2 (24.9 mmol) in 5 mL of H2O is added dropwise, keeping the temperature of the reaction below 8° C. The mixture is allowed to stir for 30 minutes. This mixture is then added dropwise to a mixture of CuBr (1.8 g, 12.5 mmol) and 6 mL of 48% HBr in 30 mL of H2O that is heated to 60° C. The reaction is cooled and added to H2O and EtOAc. The organic layer is separated and the solvents evaporated in vacuo to give a residue that is purified by silica gel chromatography (75% hexane/EtOAc) to give 5-bromo-6-nitroindane. A mixture of this indane (2.59 g, 12.2 mmol), 4.88 g (27.2 mmol) of tetramethyltin, 0.1 g of Pd(OAc)2 (0.45 mmol), 0.3 g (O-tol) 3P (0.98 mmol), 7 mL of Et3N and 7 mL of DMF is heated in a sealed tube to 65° C. for 3 days. The mixture is acidified with 1 N HCl and extracted with EtOAc. The organic layer is washed with saturated brine and dried over Na2SO4 and the solvents are evaporated in vacuo to give a residue that is purified by column chromatography (80% hexane/EtOAc) to give 5-methyl-6-nitroindane. To a mixture of 1.3 mL of HOAc and 7.3 mL of H2O heated to 90° C. is added 2.22 g of Fe. The mixture is heated until the gas evolution subsides. A solution of 1.9 g of 5-methyl-6-nitroindane (10.7 mmol) in 50 mL of EtOH is added dropwise and the reaction is heated to reflux for 30 minutes. The mixture is extracted twice with CH2Cl2. The combined organic layers are washed with saturated brine and dried over Na2SO4 and the solvents evaporated in vacuo to give a residue that is purified by column chromatography (75% hexane EtOAc) to give 6-methyl-5-aminoindane (also named 5-methyl-6-aminoindane).

reactant | HOAc | 1.3 mL | CC(=O)O | C2H4O2
reactant | H2O | 7.3 mL | O | H2O
reactant | 5-methyl-6-nitroindane | 10.7 mmol, 1.9 g | CC=1C=C2CCCC2=CC1[N+](=O)[O-] | C10H11NO2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Fe | 2.22 g | [Fe] | Fe
product | 5-methyl-6-aminoindane | CC=1C=C2CCCC2=CC1N | C10H13N
